US08242157B2
A mixture of 1-fluoro-2-nitro-benzene (1.55 g, 11.0 mmol), 2,2,2-trifluoro-ethylamine (3.27 g, 33.0 mmol) and DMSO (4.5 mL) was heated at 120° C. for 24 h. The resulting mixture was poured onto ice/H2O and the resultant precipitate was collected by filtration, washed with H2O, and hexanes to yield (2-nitro-phenyl)-(2,2,2-trifluoro-ethyl)-amine MS 221 (M+1)+

reactant | 1-fluoro-2-nitro-benzene | 11.0 mmol, 1.55 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2,2,2-trifluoro-ethylamine | 33.0 mmol, 3.27 g | FC(CN)(F)F | C2H4F3N
solvent | DMSO | 4.5 mL | CS(=O)C | C2H6OS
product | (2-nitro-phenyl)-(2,2,2-trifluoro-ethyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)NCC(F)(F)F | C8H7F3N2O2
